US05444084
Preparation of (E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-[3-(3-thienyl)phenylmethoxy]phenyl]propionic acid methyl ester
(E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propionic acid methyl ester, (E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-[4-(3-thienyl)-2-thienylmethoxy]phenyl]propionic acid methyl ester, (E)-2-(6,6-dimethyl-2,4-heptadiynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propionic acid methyl ester, (E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-7-[3-(3-thienyl)phenoxy]heptanoic acid methyl ester and (E,E)-2-(6,6-dimethyl-2-hexen-4-ynyl)-8-[3-(3-thienyl)phenyl]-7-octenoic acid methyl ester are obtained by carrying out the same reactions as in Referential Example 4 except that 6,6-dimethyl-2,4-heptadiynyl bromide and/or (E)-3-[3-[2-[3-(3-bromomethylphenyl)ethenyl]phenyl]thiophene, 2-(3-bromomethylphenoxymethyl)-4-(3-thienyl)thiophene, 3-[3-(5-iodopentanoxy)phenyl]thiophene or (E)-3-[3-(6-iodo-1-hexenyl)phenyl]thiophene are used, respectively, in place of (E)-6,6-dimethyl-2-hepten-4-ynyl bromide and/or 3-[3-(3-bromomethylphenoxymethyl)phenyl]thiophene which are the raw material compounds used in the above reaction.

reactant | 6,6-dimethyl-2,4-heptadiynyl bromide | CC(C#CC#CCBr)(C)C | C9H11Br
reactant | 2-(3-bromomethylphenoxymethyl)-4-(3-thienyl)thiophene | BrCC=1C=C(OCC=2SC=C(C2)C2=CSC=C2)C=CC1 | C16H13BrOS2
reactant | 3-[3-(5-iodopentanoxy)phenyl]thiophene | ICCCCCOC=1C=C(C=CC1)C1=CSC=C1 | C15H17IOS
reactant | (E)-3-[3-(6-iodo-1-hexenyl)phenyl]thiophene | ICCCC/C=C/C=1C=C(C=CC1)C1=CSC=C1 | C16H17IS
reactant | (E)-6,6-dimethyl-2-hepten-4-ynyl bromide | CC(C#C/C=C/CBr)(C)C | C9H13Br
reactant | 3-[3-(3-bromomethylphenoxymethyl)phenyl]thiophene | BrCC=1C=C(OCC=2C=C(C=CC2)C2=CSC=C2)C=CC1 | C18H15BrOS
product | (E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-[3-(3-thienyl)phenylmethoxy]phenyl]propionic acid methyl ester | COC(C(CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1)C\C=C\C#CC(C)(C)C)=O | C30H32O3S
